US08048899B2
Synthesis of 2-Methyl-2-{5-[2-methyl-2-(tetrahydro-pyran-4-sulfonyl)-propionylamino]-isoxazol-3-yl}-propionic acid methyl ester (Example 64)
2-Methyl-2-{5-[2-methyl-2-(tetrahydro-pyran-4-sulfonyl)-propionylamino]-isoxazol-3-yl}-propionic acid (208 mg, 0.54 mmol) is suspended in acetonitrile (5 mL). 1,8-Diazabicyclo[5,4,0]undec-7-ene (0.096 mL, 0.64 mmol) is added and followed by the addition of methyl iodide (0.073 mL, 1.18 mmol). The reaction mixture is stirred at room temperature for 3.5 h. After this time, the reaction mixture is quenched with saturated aqueous NH4Cl solution and extracted with ethyl acetate twice. The combined organics are washed with brine, dried over Na2SO4, filtered and concentrated under reduced pressure. The residue is purified by flash column chromatography (silica, eluent: DCM, MeOH) to provide 171 mg of the title compound. Yield: 79%; m/z 403 [M+H].

reactant | 2-Methyl-2-{5-[2-methyl-2-(tetrahydro-pyran-4-sulfonyl)-propionylamino]-isoxazol-3-yl}-propionic acid | 0.54 mmol, 208 mg | CC(C(=O)O)(C)C1=NOC(=C1)NC(C(C)(S(=O)(=O)C1CCOCC1)C)=O | C16H24N2O7S
reactant | 1,8-Diazabicyclo[5,4,0]undec-7-ene | 0.64 mmol, 0.096 mL | N12CCCCCC2=NCCC1 | C9H16N2
reactant | methyl iodide | 1.18 mmol, 0.073 mL | CI | CH3I
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
product | 2-Methyl-2-{5-[2-methyl-2-(tetrahydro-pyran-4-sulfonyl)-propionylamino]-isoxazol-3-yl}-propionic acid methyl ester | 171 mg, Yield: 79% | COC(C(C)(C1=NOC(=C1)NC(C(C)(S(=O)(=O)C1CCOCC1)C)=O)C)=O | C17H26N2O7S
